US04243819
To a slurry of 0.50 g of sodium hydride in 25 ml of dioxane under argon is added 2.80 g of 2-(2-fluoro-4-trifluoromethylphenylamino)-3-methylbutanoic acid in small portions. When hydrogen evolution is ceased, the mixture is cooled in an ice bath and phosgene is passed over the surface of the stirring mixture. An obvious reaction ensues, with dissolution of the sodium salt and evolution of more hydrogen. When the hydrogen evolution appears to have ceased, the ice bath is removed and the addition of phosgene is continued until the solution appears nearly saturated. The reaction mixture is then filtered through a glass frit to remove insoluble salts and the filtrate is distilled at 15-20 mm pressure to remove phosgene and about 15 ml of the dioxane solvent. The residue is then diluted with hexane and allowed to stand at RT until crystallization is complete. The anhydride is collected by filtration, washed with hexane and dried under vacuum, with care being taken to minimize exposure to moisture, to yield 3-(2-fluoro-4-trifluoromethylphenyl)-4-isopropyloxazolidine-2,5-dione.

reactant | sodium hydride | 0.50 g | [H-].[Na+]
reactant | 2-(2-fluoro-4-trifluoromethylphenylamino)-3-methylbutanoic acid | 2.80 g | FC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)O)C(C)C | C12H13F4NO2
reactant | hydrogen | [H][H] | H2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | sodium | [Na] | Na
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 3-(2-fluoro-4-trifluoromethylphenyl)-4-isopropyloxazolidine-2,5-dione | FC1=C(C=CC(=C1)C(F)(F)F)N1C(OC(C1C(C)C)=O)=O | C13H11F4NO3
